** sch_path: /foss/designs/sar_logic/sar_designs/tb_dff_rst_n.sch
**.subckt tb_dff_rst_n
x1 VDD CLK D Q RST_N 0 dff_rst_n
VRST RST_N 0 PULSE(3.3 0 300n 1n 1n 50n 1000n)
VCLK CLK 0 PULSE(0 3.3 0 1n 1n 50n 100n)
VDATA D 0 PULSE(0 3.3 10n 1n 1n 120n 240n)
VVDD VDD 0 3.3
CLOAD Q 0 50f
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/smbb000149.ngspice typical



.control
  tran 1n 600n
  run
  plot V(CLK) V(D) V(Q) V(RST_N)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  dff_rst_n.sym # of pins=6
** sym_path: /foss/designs/sar_logic/sar_designs/dff_rst_n.sym
** sch_path: /foss/designs/sar_logic/sar_designs/dff_rst_n.sch
.subckt dff_rst_n VDD CLK D Q RST_N VSS
*.ipin D
*.ipin CLK
*.ipin RST_N
*.opin Q
*.iopin VDD
*.iopin VSS
x1 CLK VSS net4 net1 VDD net7 tg
x2 net7 VSS D net1 VDD CLK tg
x3 CLK VSS net4 net2 VDD net7 tg
x4 net7 VSS net6 net2 VDD CLK tg
x5 VDD net3 net1 RST_N VSS nand2
x6 VDD net5 net2 RST_N VSS nand2
x7 VDD net3 net4 VSS inv
x8 VDD net5 Q VSS inv
x9 VDD net5 net6 VSS inv
x10 VDD CLK net7 VSS inv
.ends


* expanding   symbol:  tg.sym # of pins=6
** sym_path: /foss/designs/sar_logic/sar_designs/tg.sym
** sch_path: /foss/designs/sar_logic/sar_designs/tg.sch
.subckt tg CTRL VSS A B VDD CTRL_B
*.iopin VDD
*.iopin VSS
*.iopin A
*.iopin B
*.ipin CTRL_B
*.ipin CTRL
XM1 A CTRL_B B VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 A CTRL B VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  nand2.sym # of pins=5
** sym_path: /foss/designs/sar_logic/sar_designs/nand2.sym
** sch_path: /foss/designs/sar_logic/sar_designs/nand2.sch
.subckt nand2 VDD Z A B VSS
*.ipin A
*.ipin B
*.iopin VSS
*.iopin VDD
*.opin Z
XM1 Z A VDD VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Z B VDD VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 Z A net1 VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net1 B VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/sar_logic/sar_designs/inv.sym
** sch_path: /foss/designs/sar_logic/sar_designs/inv.sch
.subckt inv VDD vin vout VSS
*.ipin vin
*.opin vout
*.iopin VDD
*.iopin VSS
XM1 vout vin VDD VDD pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 vout vin VSS VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
